US06034239
N-[2-(7,8-dihydro-6H-indeno[4,5-d]-1,3-dioxol-8-yl)ethyl]propionamide
Hexamethyl phosphoramide (5 mL) was cooled with ice, to which was gradually added sodium hydride (0.28 g, 7.5 mmol.), content 65%). To this mixture was added dropwise a solution of N-[2-(6,7-dihydroxyindan-1-yl)ethyl]propionamide (0.85 g, 3.41 mmol.) in hexamethyl phosphoramide (5 mL) at room temperature over 6 minutes. At the time when the bubbling of hydrogen gas ceased, diiodomethane (1.1 g, 4.1 mmol.) was added dropwise to the reaction mixture, followed by stirring for two hours at room temperature. The reaction mixture was poured into water, which was neutralized with dilute hydrochloric acid, followed by extracting the organic matter with ethyl acetate. The extract solution was washed with a saturated aqueous saline solution and water, which was then dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of silica gel column chromatography (ethyl acetate) to afford the title compound (yield 280 mg, 31%).

reactant | sodium hydride | 7.5 mmol, 0.28 g | [H-].[Na+]
reactant | N-[2-(6,7-dihydroxyindan-1-yl)ethyl]propionamide | 3.41 mmol, 0.85 g | OC1=CC=C2CCC(C2=C1O)CCNC(CC)=O | C14H19NO3
reactant | diiodomethane | 4.1 mmol, 1.1 g | ICI | CH2I2
reactant | hydrochloric acid | Cl | ClH
solvent | hexamethyl phosphoramide | 5 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | Hexamethyl phosphoramide | 5 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | N-[2-(7,8-dihydro-6H-indeno[4,5-d]-1,3-dioxol-8-yl)ethyl]propionamide | yield 280 mg, 31% | O1COC2=C1C=1C(CCC1C=C2)CCNC(CC)=O | C15H19NO3
